US06949680B2
e) Synthesis of 5-oxo-5-phenylpentyl heptanoate
2.32 ml of a 1N solution of HCl were added to a solution of 4.37 g (13.0 mmol) of 4-(2-phenyl-1,3-dioxolan-2-yl)butyl heptanoate obtained under d) in 18 ml of THF (tetrahydrofuran). The reaction mixture was heated to 40° C. for 24 h, cooled down to room temperature, extracted with ethyl acetate (2×) and washed with a sat. solution of NaCl (3×). The organic phase was dried (Na2SO4) and concentrated. Column chromatography (SiO2, heptane/ether 8:2) afforded 2.74 g (73%) of a colourless oil, which crystallises at 4° C.

reactant | HCl | Cl | ClH
reactant | 4-(2-phenyl-1,3-dioxolan-2-yl)butyl heptanoate | 13.0 mmol, 4.37 g | C(CCCCCC)(=O)OCCCCC1(OCCO1)C1=CC=CC=C1 | C20H30O4
solvent | THF | 18 ml | O1CCCC1 | C4H8O
product | 5-oxo-5-phenylpentyl heptanoate | 2.74 g, 73% | C(CCCCCC)(=O)OCCCCC(C1=CC=CC=C1)=O | C18H26O3
